US09023847B2
To a solution of 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid ((S)-2-azido-1-phenyl-ethyl)-amide (40 mg, 0.1 mmol), 5% Pd/C (cat) in methanol (5 mL) was subjected to an atmosphere of hydrogen (balloon). After completion the solution was filtered and concentrated in vacuo. The residue was purified by ISCO Companion (silica, 10% methanol, methylene chloride, 1% ammonium hydroxide) to afford 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid ((S)-2-amino-1-phenyl-ethyl)-amide (35 mg) (ESI) 378 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.61 (1H, br. s.) 11.45 (1H, s) 9.32 (1H, d, J=8.20 Hz) 8.28 (3H, br. s.) 8.08 (1H, d, J=6.88 Hz) 7.75 (1H, d, J=5.81 Hz) 7.47 (2H, d, J=5.86 Hz) 7.33 (2H, dd, J=7.57, 1.81 Hz) 7.12-7.24 (3H, m) 6.81 (1H, dd, J=2.49, 1.22 Hz) 6.68 (1H, d, J=6.88 Hz) 5.28 (1H, dd, J=10.54, 4.73 Hz) 3.40 (1H, td, J=11.53, 5.44 Hz) 3.12 (1H, dd, J=7.39, 4.61 Hz)

reactant | 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid ((S)-2-azido-1-phenyl-ethyl)-amide | 0.1 mmol, 40 mg | N(=[N+]=[N-])C[C@H](C1=CC=CC=C1)NC(=O)C1=C(SC=C1)NC1=C2C(=NC=C1)NC=C2 | C20H17N7OS
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid ((S)-2-amino-1-phenyl-ethyl)-amide | 35 mg | NC[C@H](C1=CC=CC=C1)NC(=O)C1=C(SC=C1)NC1=C2C(=NC=C1)NC=C2 | C20H19N5OS
